US06320051B1
d) 2-[3-(3,4-Dichlorobenzylamino)prop-1-ylamino]-4-methoxy-6-methylquinoline
A mixture of 2-chloro-4-methoxy-6-methylquinoline (94 mg, 0.45 mmol) and N-(3-aminoprop-1-yl)-3,4-dichlorobenzylamine (0.21 g) was heated at 70° C. for 15 h, at 100° C. for 2 h, and then at 120° C. for 15 h. The resulting mixture was submitted to column chromatography (silica gel, MeOH:NH3:CH2Cl2 20:2:100) to give the title compound as a red film, (65 mg, 36%). δH (CDCl3) 1.72-1.89 (m, 3H+H2O), 2.42 (s, 3H), 2.74 (t, J=6.4, 2H), 3.53-3.65 (m, 2H), 3.71 (s, 2H), 3.94 (s, 3H), 5.06 (br, s, 1H), 5.87 (s, 1H), 7.12 (dd, J=8.2. 2.0, 1H), 7.28-7.36 (m, 2H), 7.40-7.48 (m, 2H), 7.72 (br, s, 1H): MS (ES+) 404 (MH+, 43%), 229 (100).

reactant | 2-chloro-4-methoxy-6-methylquinoline | 0.45 mmol, 94 mg | ClC1=NC2=CC=C(C=C2C(=C1)OC)C | C11H10ClNO
reactant | N-(3-aminoprop-1-yl)-3,4-dichlorobenzylamine | 0.21 g | NCCCNCC1=CC(=C(C=C1)Cl)Cl | C10H14Cl2N2
reactant | MeOH NH3 CH2Cl2 | CO.N.C(Cl)Cl
product | 2-[3-(3,4-Dichlorobenzylamino)prop-1-ylamino]-4-methoxy-6-methylquinoline | ClC=1C=C(CNCCCNC2=NC3=CC=C(C=C3C(=C2)OC)C)C=CC1Cl | C21H23Cl2N3O
